* source TL07XH_TL08XH
V_V1         VCC 0 20
V_V2         0 VEE 20
X_U1         VIN VOUT VCC VEE VOUT TL07XH_TL08XH
V_V3         VIN 0  
+SIN 0 1 1k 0 0 0
